US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (g, mmol) was reacted with N-(2-azidoethyl)octadec-9-enamide (g, mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-heptadec-8-enamidoethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 7.26 (s, 1H), δ 6.81 (s, 1H), δ 6.42 (s, 2H), δ 5.88 (s, 1H), δ 5.27 (s, 2H), δ 4.38 (s, 2H), δ 3.65 (s, 2H), δ 2.60 (s, 2H), δ 2.09 (s, 2H), δ 1.53-1.01 (m, 35H), 0.79 (t, 3H) ppm; 13C NMR (75 MHz, CDCl3) δ 174.2, 173.8, 148.3, 130.3, 130.1, 129.9, 129.8, 121.9, 85.1, 67.1, 49.5, 39.5, 39.1, 38.0, 37.7, 36.7, 36.6, 32.8, 32.3, 32.1, 31.7, 29.9, 29.8, 29.7, 29.5, 29.3, 29.2, 28.9, 28.7, 28.1, 28.0, 27.9, 27.4, 27.3, 27.3, 26.9, 25.9, 25.6, 25.3, 22.9, 22.8, 22.6, 14.3, 14.2 ppm; HRMS (ESI) calcd for C3H61N7O3 (M+) 627.4836. found 627.4823, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)heptadec-8-enamide hydrochloride (0.128 g, 66% yield). 1H NMR (400 MHz, CD3OD) δ 8.36 (s, 1H), δ 6.96 (s, 1H), δ 6.45 (s, 1H), δ 6.09 (s, 1H), δ 4.58 (s, 2H), δ 3.58 (s, 2H), δ 2.75 (s, 2H), δ 2.10 (s, 2H), δ 1.96 (s, 4H), δ 1.69 (s, 2H), δ 1.41 (m, 4H), 1.23 (s, 24H), δ 0.84 (s, 3H) ppm; 13C NMR (100 MHz, CD3OD) δ 175.5, 158.8, 155.7, 147.3, 129.7, 129.6, 127.6, 108.5, 94.6, 76.7, 51.3, 50.4, 48.6, 48.4, 48.2, 47.9, 47.8, 47.5, 47.3, 38.9, 37.5, 36.6, 45.9, 45.8, 33.9, 32.6, 31.9, 31.5, 29.8, 29.5, 29.4, 29.3, 29.2, 29.1, 28.2, 27.8, 27.0, 25.8, 24.9, 24.2, 23.8, 22.5, 13.5, 13.3 ppm; HRMS (ESI) calcd for C30H53N7O (M+) 527.4312. found 527.4298.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)octadec-9-enamide | N(=[N+]=[N-])CCNC(CCCCCCCC=CCCCCCCCC)=O | C20H38N4O
product | tert-butyl 2-amino-4-(5-(1-(2-heptadec-8-enamidoethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(CCCCCCC=CCCCCCCCC)=O)C(=O)OC(C)(C)C | C34H59N7O3
